US07125589B1
Preparation of 2-fluoro-4-(2-fluorophenyl)phenyl 2,5-difluoro-4-(4-pentylphenyl)benzoate (No. 1382)
To a mixture of 2,5-difluoro-4-(4-pentylphenyl)benzoic acid (28.40 mmol), 2-fluoro-4-(2-fluorophenyl)phenol (28.40 mmol), and dichloromethane (100 ml), 4-dimetylaminopyridine (34.10 mmol) is added dropwise. Then, a solution of 1,3-dicyclohexylcarbodiimide (34.10 mmol) in dichloromethane (100 ml) is added dropwise. After the addition is completed, the reaction mixture is stirred for 17 hrs at room temperature. Solid formed is filtered off, and a saturated aqueous solution of sodium chloride is added dropwise to the reaction mixture. The organic layer is washed with in the order of 3N-hydrochloric acid (300 ml), water, a saturated aqueous solution of sodium hydrogen carbonate (300 ml), and dried over anhydrous magnesium sulfate. The dichloromethane solution is concentrated under reduced pressure, purified by silica-gel chromatography, and further recrystallized to give the titled compound.

reactant | 2,5-difluoro-4-(4-pentylphenyl)benzoic acid | 28.40 mmol | FC1=C(C(=O)O)C=C(C(=C1)C1=CC=C(C=C1)CCCCC)F | C18H18F2O2
reactant | 2-fluoro-4-(2-fluorophenyl)phenol | 28.40 mmol | FC1=C(C=CC(=C1)C1=C(C=CC=C1)F)O | C12H8F2O
reactant | 1,3-dicyclohexylcarbodiimide | 34.10 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimetylaminopyridine | 34.10 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-fluoro-4-(2-fluorophenyl)phenyl 2,5-difluoro-4-(4-pentylphenyl)benzoate | FC1=C(C(=O)OC2=C(C=C(C=C2)C2=C(C=CC=C2)F)F)C=C(C(=C1)C1=CC=C(C=C1)CCCCC)F | C30H24F4O2
